US05998433
b) Synthesis of N,N-dimethyl-[6-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.255 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting solid was recrystallized from methanol-ethyl acetate to yield the desired product.

reactant | N,N-Dimethyl-[6-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.255 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC(=CC=C2)C(C2=CC=CC=C2)=O)=O)O1 | C24H24N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC(=CC=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C24H24N2O3.ClH/c1-25(2)15-21-14-18-11-12-26(16-22(18)29-21)24(28)20-10-6-9-19(13-20)23(27)17-7-4-3-5-8-17;/h3-10,13-14H,11-12,15-16H2,1-2H3;1H
